US04831151
A suspension consisting of 1.72 g (5 mmol) of 1-amino-3-(p-chlorophenacyl)-2-ethylimidazolium bromide and 0.74 g (5 mmol) of 4-dimethylaminobenzaldehyde in 15 ml of glacial acetic acid is stirred at room temperature for 48 hours, treated with ether and filtered. The filtered-off crude product is chromatographed on 30 g of silica gel (particle size 0.063-0.200 mm) while eluting with methylene chloride/methanol (9:1 v/v) and then recrystallized from methylene chloride/methanol/ether. There is obtained 3-(p-chlorophenacyl)-1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazolium bromide of melting point 252°-253°.

reactant | 1-amino-3-(p-chlorophenacyl)-2-ethylimidazolium bromide | 5 mmol, 1.72 g | [Br-].N[N+]1=C(N(C=C1)CC(=O)C1=CC=C(C=C1)Cl)CC
reactant | 4-dimethylaminobenzaldehyde | 5 mmol, 0.74 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-(p-chlorophenacyl)-1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazolium bromide | [Br-].ClC1=CC=C(C(CN2C(=[N+](C=C2)N=CC2=CC=C(C=C2)N(C)C)CC)=O)C=C1 | InChI=1S/C22H24ClN4O.BrH/c1-4-22-26(16-21(28)18-7-9-19(23)10-8-18)13-14-27(22)24-15-17-5-11-20(12-6-17)25(2)3;/h5-15H,4,16H2,1-3H3;1H/q+1;/p-1
